US04556711
5-(4-Aminophenyl)pyrazin-2(1H)-one (1 g) was dissolved in dimethylformamide (25 ml) and triethylamine (0.05 ml), and the solution filtered through diatomaceous earth. Phenyl isocyanate (1 ml) was added and the dark solution was stirred for 24 hours at room temperature. The solvent was evaporated under reduced pressure to afford a residue which was washed with water. The resultant solid precipitate was collected by filtration to yield 5-[4-(3-phenylureido)phenyl]-2(1H)-pyrazinone.

reactant | 5-(4-Aminophenyl)pyrazin-2(1H)-one | 1 g | NC1=CC=C(C=C1)C=1N=CC(NC1)=O | C10H9N3O
reactant | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 5-[4-(3-phenylureido)phenyl]-2(1H)-pyrazinone | C1(=CC=CC=C1)NC(NC1=CC=C(C=C1)C=1N=CC(NC1)=O)=O | C17H14N4O2
